US06262089B1
(R)-1-[[3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-ureido]-pyrrolidine-2-carboxylic acid
0.14 g (0.36 mmol) (R)-1-[[3-[2-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-ureido]-pyrrolidine-2-carboxylic acid benzyl ester in 60 ml ethanol were hydrogenated in the presence of 40 mg 5% Pd on carbon. Filtration, evaporation of the solvent and crystallization from methanol/ethylacetate yielded 0.07 g (52%) as white crystals with melting point 157-160° C.

reactant | [3-[2-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-ureido]-pyrrolidine-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1N(CCC1)NC(=O)NOCC(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1 | C27H32N4O7
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 40 mg | [Pd] | Pd
product | [3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-ureido]-pyrrolidine-2-carboxylic acid | C(=O)(O)[C@@H]1N(CCC1)C(CONC(NN1C(CCC1)C(=O)O)=O)=O | C13H20N4O7
